US07354932B2
Preparation of 1-allyl-4-methyl-1H-imidazole
4-Methylimidazole (2.0 g, 24.36 mmol), allyl bromide (2.2 mL, 24.36 mmol), N,N-diisopropylethylamine (5.0 mL, 29.24 mmol) in DMF (50 mL) were stirred at 80° C. overnight. Then the reaction mixture was cooled, quenched with saturated NaHCO3 (30 mL), and extracted with CH2Cl2 (4×40 mL). The combined organic layers were dried (MgSO4), filtered, concentrated, and dried in vacuo to afford a brown oil. Purification by flash column chromatography on silica using 2% CH3OH/CH2Cl2 afforded the product as a yellow oil (1.13 g, 40%). 1H NMR (CDCl3) (as a mixture of regio-isomers) δ 2.17 and 2.22 (s, total 3H), 4.44-4.48 (m, total 2H), 5.19-5.24 (m, total 2H), 5.89-6.00 (m, total 1H), 6.61 and 6.79 (s, total 1H), 7.35 and 7.39 (s, total 1H).

reactant | 4-Methylimidazole | 24.36 mmol, 2.0 g | CC=1N=CNC1 | C4H6N2
reactant | allyl bromide | 24.36 mmol, 2.2 mL | C(C=C)Br | C3H5Br
reactant | N,N-diisopropylethylamine | 29.24 mmol, 5.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-allyl-4-methyl-1H-imidazole | 1.13 g, 40% | C(C=C)N1C=NC(=C1)C | C7H10N2
